US08420823B2
N-(3-ethoxypyridin-2-yl)-3-(pyrrolidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(pyrrolidin-1-ylsulfonyl)benzoic acid and 3-ethoxypyridine-2-amine as the starting materials.

reactant | 3-(pyrrolidin-1-ylsulfonyl)benzoic acid | N1(CCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C11H13NO4S
reactant | 3-ethoxypyridine-2-amine | C(C)OC=1C(=NC=CC1)N | C7H10N2O
product | N-(3-ethoxypyridin-2-yl)-3-(pyrrolidin-1-ylsulfonyl)benzamide | C(C)OC=1C(=NC=CC1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCC1)=O | C18H21N3O4S
